US09210931B2
Step 3: Preparation of tert-Butyl ethyl(4-(pyridin-3-yl)-1H-imidazol-1-yl)carbamate (Compound 40)
tert-Butyl (4-bromo-1H-imidazol-1-yl)(ethyl)carbamate (253.7 mg, 0.874 mmol), pyridin-3-ylboronic acid (113 mg, 0.918 mmol), potassium carbonate (329 mg, 2.39 mmol), water (0.870 mL), absolute ethanol (1.74 mL), and toluene (3.50 mL) were placed into a 10 mL round bottomed flask equipped with condenser and magnetic stirrer. The atmosphere was flushed with nitrogen and tetrakis triphenylphosphine palladium (30.0 mg, 0.026 mmol) was added. The mixture was heated to 110° C. and stirred for 16 hours. The reaction was cooled, the organic layer set aside, and the aqueous layer was extracted with ethyl acetate. All organics were combined, dried over sodium sulfate, and concentrated. The residue was purified using silica gel chromatography (0-25% methanol/dichloromethane) to afford the title compound (81 mg, 0.28 mmol, 32%) as a yellow oil: 1H NMR (400 MHz, CD3CN) δ 9.00 (d, J=2.5 Hz, 1H), 8.46 (d, J=4.8 Hz, 1H), 8.11 (m, 1H), 7.67 (d, J=1.3 Hz, 1H), 7.61 (d, J=1.2 Hz, 1H), 7.36 (m, 1H), 3.76 (q, J=7.1 Hz, 2H), 1.45 (s, 9H), 1.17 (t, J=7.2 Hz, 3H); ESIMS m/z 289 ([M+H]+).

reactant | tert-Butyl (4-bromo-1H-imidazol-1-yl)(ethyl)carbamate | 0.874 mmol, 253.7 mg | BrC=1N=CN(C1)N(C(OC(C)(C)C)=O)CC | C10H16BrN3O2
reactant | pyridin-3-ylboronic acid | 0.918 mmol, 113 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | potassium carbonate | 2.39 mmol, 329 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.870 mL | O | H2O
solvent | toluene | 3.50 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1.74 mL | C(C)O | C2H6O
product | tert-Butyl ethyl(4-(pyridin-3-yl)-1H-imidazol-1-yl)carbamate | 0.28 mmol, 81 mg, 32% | C(C)N(C(OC(C)(C)C)=O)N1C=NC(=C1)C=1C=NC=CC1 | C15H20N4O2
